US06096483
100 ml of toluene, 10 g of 2-nitrobenzyl alcohol and 11.4 ml of octyl isocyanate heated to reflux for 2 hours in a nitrogen atmosphere. After being cooled, the reaction solution was washed several times with water, and the toluene solution obtained was dehydrated with sodium sulfate. The sodium sulfate was filtered out, and the solvent was removed. The solid obtained was recrystallized twice from hexane, producing 12.5 g of o-nitrobenzene-n-octylcarbamate in the form of pale yellow needle crystals. Melting point: 70 to 71° C., infrared absorption spectrum: 3331 cm-1, 1691 cm-1.

reactant | 2-nitrobenzyl alcohol | 10 g | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | octyl isocyanate | 11.4 ml | C(CCCCCCC)N=C=O | C9H17NO
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | o-nitrobenzene n-octylcarbamate | 12.5 g | [N+](=O)([O-])C1=CC=CC=C1.C(CCCCCCC)NC([O-])=O | InChI=1S/C9H19NO2.C6H5NO2/c1-2-3-4-5-6-7-8-10-9(11)12;8-7(9)6-4-2-1-3-5-6/h10H,2-8H2,1H3,(H,11,12);1-5H/p-1
